US08877754B2
N-(2,5-Dimethyl-2H-pyrazol-3-yl)-2-[4-(4-ethoxy-phenylethynyl)-phenyl]-propionamide
To 30 mg (0.11 mmol) 2-[4-(4-ethoxy-phenylethynyl)-phenyl]-propionic acid in (XI.2) 3 mL THF are added 55 μL (0.32 mmol) DIPEA, followed by 30 mg (0.11 mmol) chloro-N,N,N,N-tetramethylformamidinium hexafluorophosphate. The mixture is stirred at rt for 30 min. After that time, 12 mg (0.11 mmol) 5-amino-1,3-dimethylpyrazole are added and stirring is continued for 12 h. The solvent is removed and the residue is taken up in 1 mL DMF. 50 μL DIPEA are added, followed by 30 mg TBTU (0.11 mmol) and 12 mg (0.11 mmol) 5-amino-1,3-dimethylpyrazole. Stirring is continued for 12 h. The solvent is removed and the residue is purified by RP-HPLC (narrow gradients, water/ACN+0.1% TFA).

reactant | 2-[4-(4-ethoxy-phenylethynyl)-phenyl]-propionic acid | 0.11 mmol, 30 mg | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C(=O)O)C | C19H18O3
reactant | DIPEA | 0.32 mmol, 55 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-amino-1,3-dimethylpyrazole | 0.11 mmol, 12 mg | NC1=CC(=NN1C)C | C5H9N3
reactant | TBTU | 0.11 mmol, 30 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 5-amino-1,3-dimethylpyrazole | 0.11 mmol, 12 mg | NC1=CC(=NN1C)C | C5H9N3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(2,5-Dimethyl-2H-pyrazol-3-yl)-2-[4-(4-ethoxy-phenylethynyl)-phenyl]-propionamide | CN1N=C(C=C1NC(C(C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCC)=O)C | C24H25N3O2
